US07390830B1
Synthesis of 4-[[N-(2-amino-5-chlorobenzoyl) glycyl]aminomethyl]-1-[4-(trifluoromethylthio)benzyl]piperidine (Compd. No. 1616)
A mixture of 4-[[N-(2-amino-5-chlorobenzoyl)glycyl]aminomethyl]piperidine (16.2 mg, 0.050 mmol) with 4-(trifluoromethylthio)benzyl chloride (20.3 mg, 0.075 mmol), acetonitrile (1.0 mL) and chloroform (0.56 mL) was stirred at 60° C. for 15 hours, cooled, then loaded onto a VarianM SCX column and washed with methanol (15 mL). The obtained crude product was eluted with a 2 M methanol solution of NH3 (5 mL) and concentrated to thereby afford 4-[[N-(2-amino-5-chlorobenzoyl) glycyl]aminomethyl]-1-[4-(trifluoromethylthio)benzyl]piperidine (Compd. No. 1616) (21.9 mg, 85%). The purity was determined by RPLC/MS (96%). ESI/MS m/e 545.2 (M++H, C23H26ClF3N4O2S).

reactant | 4-[[N-(2-amino-5-chlorobenzoyl)glycyl]aminomethyl]piperidine | 0.050 mmol, 16.2 mg | NC1=C(C(=O)NCC(=O)NCC2CCNCC2)C=C(C=C1)Cl | C15H21ClN4O2
reactant | 4-(trifluoromethylthio)benzyl chloride | 0.075 mmol, 20.3 mg | FC(SC1=CC=C(CCl)C=C1)(F)F | C8H6ClF3S
reactant | acetonitrile | 1.0 mL | C(C)#N | C2H3N
solvent | chloroform | 0.56 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-[[N-(2-amino-5-chlorobenzoyl) glycyl]aminomethyl]-1-[4-(trifluoromethylthio)benzyl]piperidine | NC1=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=CC=C(C=C2)SC(F)(F)F)C=C(C=C1)Cl | C23H26ClF3N4O2S
